US04503059
226 g (1 mol) of 1-(4-chlorophenoxy)-3,3-dimethylbutan-2-one (obtained from sodium 4-chlorophenolate and α-bromopinacolone; in this respect, see German Patent Specification No. 2,201,063), together with 120 g (1.07 mols) of glycerol, 19 g (0.1 mol) of p-toluenesulphonic acid monohydrate and 30 ml of butanol, are dissolved in 1,000 ml of toluene, and the mixture is heated under reflux for 16 hours in a water separator. After the mixture has been cooled, the toluene phase is washed with 4 times 250 ml of water, dried over magnesium sulphate, filtered, and evaporated down in vacuo. 186 g (65.4% of theory) of 2-(t-butyl)-2-(4-chlorophenoxymethyl)-4-hydroxymethyl-1,3-dioxolane of boiling point b.p. 0.1 : 161° C.-163° C. are obtained by distillation.

reactant | sodium 4-chlorophenolate | ClC1=CC=C(C=C1)[O-].[Na+]
reactant | α-bromopinacolone | CC(C)(C)C(=O)CBr | C6H11BrO
product | 1-(4-chlorophenoxy)-3,3-dimethylbutan-2-one | 1 mol, 226 g | ClC1=CC=C(OCC(C(C)(C)C)=O)C=C1 | C12H15ClO2
